US07700589B2
9i) 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylic acid-[(R)-1-(3,4-diethyl-benzyl)-2-(4-dimethylamino-piperidin-1-yl)-2-oxo-ethyl]-amide
A mixture of 400 mg (0.81 mmol) (R)-3-(3,4-diethyl-phenyl)-2-{[4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carbonyl]-amino}-propionic acid, 280 mg (0.87 mmol) TBTU, 0.17 mL (0.97 mmol) ethyldiisopropylamine and 45 mL THF was stirred for 1 h at RT, then combined with 130 mg (1.01 mmol) dimethyl-piperidin-4-yl-amine and 5 mL DMF and stirred overnight. The reaction mixture was diluted by the addition of 30 mL EtOAc, extracted with 30 mL of a 15% K2CO3 solution and the organic phase was dried. The product fractions were evaporated down under reduced pressure, the residue was triturated with diisopropylether, suction filtered and dried.

reactant | (R)-3-(3,4-diethyl-phenyl)-2-{[4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carbonyl]-amino}-propionic acid | 0.81 mmol, 400 mg | C(C)C=1C=C(C=CC1CC)C[C@H](C(=O)O)NC(=O)N1CCC(CC1)N1C(NC2=C(CC1)C=CC=C2)=O | C28H36N4O4
reactant | TBTU | 0.87 mmol, 280 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | ethyldiisopropylamine | 0.97 mmol, 0.17 mL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | dimethyl-piperidin-4-yl-amine | 1.01 mmol, 130 mg | CN(C1CCNCC1)C | C7H16N2
solvent | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | THF | 45 mL | C1CCOC1 | C4H8O
product | 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylic acid-[(R)-1-(3,4-diethyl-benzyl)-2-(4-dimethylamino-piperidin-1-yl)-2-oxo-ethyl]-amide | C(C)C=1C=C(C[C@H](C(=O)N2CCC(CC2)N(C)C)NC(=O)N2CCC(CC2)N2C(NC3=C(CC2)C=CC=C3)=O)C=CC1CC | C35H50N6O3
